US07795288B2
4-[5-(2-Chloro-phenyl)-thiazol-2-ylamino]-phenol
The title compound is prepared as described in Example 12 (Procedure B) for 4-(5-thiophen-3-yl-thiazol-2-yl-amino)-phenol but starting from (2-chlorophenyl)-acetaldehyde. The title compound: ES-MS: 303.0 [M+H]+; single peak at tR=3.59 min (System 2); Rf=0.21 (CH2Cl2/MeOH, 95/5).

reactant | 4-(5-thiophen-3-yl-thiazol-2-yl-amino)-phenol | S1C=C(C=C1)C1=CN=C(S1)NC1=CC=C(C=C1)O | C13H10N2OS2
reactant | (2-chlorophenyl)-acetaldehyde | ClC1=C(C=CC=C1)CC=O | C8H7ClO
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-[5-(2-Chloro-phenyl)-thiazol-2-ylamino]-phenol | ClC1=C(C=CC=C1)C1=CN=C(S1)NC1=CC=C(C=C1)O | C15H11ClN2OS
